US07816387B2
3-[Methyl(methylsulfonyl)amino]-5-(3-phenylpyrrolidin-1-yl)benzoic acid
To a solution of methyl 3-[methyl(methylsulfonyl)amino]-5-(2-oxo-4-phenylpyrrolidin-1-yl)benzoate obtained in Reference Example 18 0.20 g (0.50 mmol) in tetrahydrofuran (3 mL) was added 1.0 M BH3.tetrahydrofuran/tetrahydrofuran solution (1.5 mL) dropwise under ice-cooling and the mixture was stirred at room temperature for 16 hours. To the reaction solution was added methanol (3 mL) under ice-cooling, and the solvent was evaporated. The residue was dissolved in methanol (10 mL), and the mixture was stirred at 80° C. for 7 hours and the solvent was evaporated. The resulting solid was dissolved in a mixture of 2N aqueous sodium hydroxide solution (0.5 mL), methanol (0.5 mL) and tetrahydrofuran (0.5 mL) and the mixture was stirred at room temperature for 15 hours. The solvent was concentrated and the residue was adjusted by adding 1N hydrochloric acid to pH=3 and the mixture was extracted with ethyl acetate. After drying of the mixture on magnesium sulfate, the solvent was evaporated to give 165 mg (0.176 mmol) of the title compound (yield: 88%).

reactant | methyl 3-[methyl(methylsulfonyl)amino]-5-(2-oxo-4-phenylpyrrolidin-1-yl)benzoate | CN(C=1C=C(C(=O)OC)C=C(C1)N1C(CC(C1)C1=CC=CC=C1)=O)S(=O)(=O)C | C20H22N2O5S
reactant | tetrahydrofuran tetrahydrofuran | 1.5 mL | O1CCCC1.O1CCCC1 | 2C4H8O
reactant | methanol | 3 mL | CO | CH4O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 3-[Methyl(methylsulfonyl)amino]-5-(3-phenylpyrrolidin-1-yl)benzoic acid | 0.176 mmol, 165 mg, yield: 88% | CN(C=1C=C(C(=O)O)C=C(C1)N1CC(CC1)C1=CC=CC=C1)S(=O)(=O)C | C19H22N2O4S
